US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (226 mg, 1.18 mmol) (described in the previous experimental) and m-anisidine (1.00 mL, 8.90 mmol) is stirred under N2 at 190° C. for 1.5 h. The resulting product is chromatographed over silica gel (5-7% EtOH/EtOAc) to give 7-amino-4-(3-methoxyanilino)pyrido[4,3-d]pyrimidine (136 mg, 43%) as a light brown solid. 1H NMR (DMSO) δ 9.78 (1H, brs), 9.34 (1H, s), 8.40 (1H, s), 7.50 (1H, brs), 7.44 (1H, d, J=8.0 Hz), 7.28 (1H, t, J=8.2 Hz), 6.71 (1H, dd, J=8.2, 2.3 Hz), 6.61 (2H, brs), 6.45 (1H, s), 3.77 (3H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.18 mmol, 226 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | m-anisidine | 8.90 mmol, 1.00 mL | COC1=CC(=CC=C1)N | C7H9NO
product | 7-amino-4-(3-methoxyanilino)pyrido[4,3-d]pyrimidine | 136 mg, 43% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)OC | C14H13N5O
